US07318966B2
Synthesis of the Benzoquinoline Derivative (BQ-1)
23.8 g of 2-bromobiphenyl was converted to the Grignard form in THF using 3.4 g of metal magnesium, then this reacted with 18.0 g of 9-fluorenone at from room temperature to 50° C. and, by treatment in the normal way, 9-(2-biphenyl)-9-fluorenol was obtained. This was heated in acetic acid to which a small amount of hydrochloric acid had been added, so that water was eliminated and, by treatment in the usual way, 9,9′-spirobifluorene (18.5 g) was obtained. Next, Connecting Unit 1 (15.8 g) was reacted with 8.6 g of acetyl chloride and 14.7 g of aluminium chloride at 50° C. in 1,2-dichloroethane and, by treatment in the normal way, 2,2′-diacetyl-9,9′-spirobifluorene (11.2 g) was obtained. This diacetyl compound (2.3 g) was reacted with 2.0 g of 1-amino-2-naphthalenecarbaldehyde and 1.6 g of potassium hydroxide at 60° C. in dioxane and, by treatment in the normal way, there was obtained BQ-1 (1.5 g) shown below. 1H-NMR (CDCl3, ppm): 9.4 (d, 2H), 8.6 (d.d, 2H), 8.1 (d, 2H), 8.0 (t, 4H), 7.8 (d, 2H), 7.8-7.6 (m, 12H), 7.4 (t, 2H), 7.2 (t, 2H), 6.8 (d, 2H).

reactant | 1-amino-2-naphthalenecarbaldehyde | 2.0 g | NC1=C(C=CC2=CC=CC=C12)C=O | C11H9NO
reactant | potassium hydroxide | 1.6 g | [OH-].[K+]
reactant | dioxane | O1CCOCC1 | C4H8O2
product | Benzoquinoline | N1=CC=CC2=CC=C3C(=C12)C=CC=C3 | C13H9N
